US09301951B2
3-((3-((2-(6-((3-methylbenzyl)amino)pyrimidin-4-yl)-4-(piperidin-1-yl)-phenyl)carbamoyl)benzyl)thio)propanoic acid
Into a 100-mL round-bottom flask, was placed a solution of tert-butyl 3-(3-(2-(6-(3-methylbenzylamino)pyrimidin-4-yl)-4-(piperidin-1-yl)phenylcarbamoyl)benzylthio)propanoate (180 mg, 0.28 mmol, 1.00 equiv) in dichloromethane (5 mL), and 2,2,2-trifluoroacetic acid (2 mL). The resulting solution was stirred for 3 h at room temperature. The resulting mixture was concentrated under vacuum. The crude product was purified by reverse phase HPLC eluting with a water/CH3CN gradient containing 0.05% TFA. The product was obtained as 84 mg (51%) of a yellow solid. 1H-NMR (300 MHz, DMSO-d6, ppm): δ 9.42 (s, 1H), 8.84 (s, 1H), 7.80 (s, 1H), 7.71 (m, 2H), 7.52 (m, 1H), 7.45 (m, 1H), 7.24 (m, 6H), 6.90 (s, 1H), 5.42 (s, 2H), 4.64 (m, 1H), 3.82 (s, 2H), 3.26 (m, 4H), 2.59 (m, 2H), 1.67 (m, 6H). MS (ES, m/z): 596 [M+H]+.

reactant | tert-butyl 3-(3-(2-(6-(3-methylbenzylamino)pyrimidin-4-yl)-4-(piperidin-1-yl)phenylcarbamoyl)benzylthio)propanoate | 0.28 mmol, 180 mg, 1.00 equiv | CC=1C=C(CNC2=CC(=NC=N2)C2=C(C=CC(=C2)N2CCCCC2)NC(=O)C=2C=C(CSCCC(=O)OC(C)(C)C)C=CC2)C=CC1 | C38H45N5O3S
reactant | 2,2,2-trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 3-((3-((2-(6-((3-methylbenzyl)amino)pyrimidin-4-yl)-4-(piperidin-1-yl)-phenyl)carbamoyl)benzyl)thio)propanoic acid | 84 mg, 51% | CC=1C=C(CNC2=CC(=NC=N2)C2=C(C=CC(=C2)N2CCCCC2)NC(=O)C=2C=C(CSCCC(=O)O)C=CC2)C=CC1 | C34H37N5O3S
